US07026266B2
Synthesis of NiCl2/TPPTS
Nickel chloridehexahydrate (0.05 mols) was reacted with tppts (0.12 mols) in water sufficient to dissolve and formed complex was precipitated by ethanol

reactant | Nickel chloridehexahydrate | 0.05 mols | O.O.O.O.O.O.[Cl-].[Cl-].[Ni+2]
reactant | tppts | 0.12 mols | C1=CC(=CC(=C1)S(=O)(=O)[O-])P(C2=CC(=CC=C2)S(=O)(=O)[O-])C3=CC(=CC=C3)S(=O)(=O)[O-].[Na+].[Na+].[Na+]
solvent | water | O | H2O
product | NiCl2 TPPTS | Cl[Ni]Cl.C1=CC(=CC(=C1)S(=O)(=O)[O-])P(C2=CC(=CC=C2)S(=O)(=O)[O-])C3=CC(=CC=C3)S(=O)(=O)[O-].[Na+].[Na+].[Na+] | InChI=1S/C18H15O9PS3.2ClH.3Na.Ni/c19-29(20,21)16-7-1-4-13(10-16)28(14-5-2-8-17(11-14)30(22,23)24)15-6-3-9-18(12-15)31(25,26)27;;;;;;/h1-12H,(H,19,20,21)(H,22,23,24)(H,25,26,27);2*1H;;;;/q;;;3*+1;+2/p-5
